US06518423B1
8-(Benzimidazol-2-yl)-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine
610 mg of 2-amino-1-[N-[(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)methylene]]aminobenzene was heated under reflux in 3 ml of pyridine for 8 hours. Then the reaction mixture was brought back to room temperature and eluted with ethyl acetate. The crystals thus precipitated were ground and filtered to thereby give 310 mg of the title compound as yellow crystals.

reactant | 2-amino-1-[N-[(10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)methylene]]aminobenzene | 610 mg | NC1=C(C=CC=C1)N=CC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C19H17N5OS
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 8-(Benzimidazol-2-yl)-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | 310 mg | N1=C(NC2=C1C=CC=C2)C=2C=CC1=C(N(C3=C(S1)N=CC=N3)COC)C2 | C19H15N5OS
